US07608622B2
To a solution of 3,5-dibromopyrazin-2-ylamine (253 mg, 1.0 mmol), diisopropylethyl-amine (0.2 mL, 1.5 mmol) and anhydrous ethanol (2 mL) in a microwave tube (Smith process vial, 2-5 mL) was added m-nitrobenzylamine (192 mg, 1.2 mmol). The tube was sealed and heated at 180° C. in a microwave reactor (Smith Synthesizer) for 1.5 h. The reaction mixture was then concentration under reduced pressure and the resultant residue was purified by flash chromatography [silica gel, hexanes/ethyl acetate (2:1)] to afford 5-bromo-N3-(3-nitrobenzyl)pyrazine-2,3-diamine as a brown solid (100 mg, 31%).

reactant | 3,5-dibromopyrazin-2-ylamine | 1.0 mmol, 253 mg | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | diisopropylethyl-amine | 1.5 mmol, 0.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | m-nitrobenzylamine | 1.2 mmol, 192 mg | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-bromo-N3-(3-nitrobenzyl)pyrazine-2,3-diamine | 100 mg, 31% | BrC=1N=C(C(=NC1)N)NCC1=CC(=CC=C1)[N+](=O)[O-] | C11H10BrN5O2
